US06177440B1
B. Preparation of 5-carbamoyl-4-hydroxy-1-chlorocarbazole
A solution of 0.66 g of 9-benzyl-5-carbamoyl-4-methoxy-1-chlorocarbazole in 40 ml of dichloromethane was cooled in an ice bath treated dropwise with 14 ml of 1.0 M boron tribromide solution in dichloromethane. The reaction was allowed to warm to room temperature slowly over 2 hours and then quenched by pouring into ice and then adding 50 ml of 1 N HCl. The mixture was extracted with dichloromethane (3×200 ml) and the extracts were washed with brine, dried with magnesium sulfate and concentrated. The aqueous layers exhibited a precipitate and was then extracted twice with ethyl acetate, washed with brine, dried with magnesium sulfate and concentrated to afford 0.287 g of the subtitle compound. The first residue was chromatographed on silica gel using 0.5% methanol in dichloromethane to afford another 93 mg of the subtitle compound. (total yield 80%) ESIMS m/e 259 (M+−1) NMR (300 MHz, d6-DMSO): δ 11.79 (s, 1H); 10.76 (s, 1H); 8.87 (br s, 1H); 8.41 (br s, 1H); 7.77 (t, J=4.6, 1H); 7.48 (d, J=4.2, 2H); 7.34 (d, J=8.5, 1H); 6.54 (d, J=8.5, 1H).

reactant | 9-benzyl-5-carbamoyl-4-methoxy-1-chlorocarbazole | 0.66 g | C(C1=CC=CC=C1)N1C2=CC=CC(=C2C=2C(=CC=C(C12)Cl)OC)C(N)=O | C21H17ClN2O2
reactant | boron tribromide | 1.0 M, 14 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 5-carbamoyl-4-hydroxy-1-chlorocarbazole | 0.287 g, yield 80% | C(N)(=O)C1=C2C=3C(=CC=C(C3NC2=CC=C1)Cl)O | C13H9ClN2O2
